US07314888B1
In 10 ml of ethanol is dissolved 0.95 g of ethyl 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenoxy]acetate, to which is added 5.7 ml of 1 mol/L solution of sodium hydroxide. The mixture thus obtained is stirred at ambient temperature for one hour. Water and chloroform are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried on anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 0.83 g of 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenoxy]acetic acid is obtained as a white solid product.

reactant | ethyl 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenoxy]acetate | 0.95 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(OCC(=O)OCC)C2)OCC(C)C)C=CC(=C1)OCC(C)C | C29H40O7
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenoxy]acetic acid | 0.83 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(OCC(=O)O)C2)OCC(C)C)C=CC(=C1)OCC(C)C | C27H36O7
